US08835462B2
To a solution of tert-butyl ((3S,7S,8R,9S)-7-benzyl-8-(3-hydroxypropoxy)-9-methyl-2-oxo-1,5-dioxonan-3-yl)carbamate (118 mg, 0.270 mmol, 1.00 equiv) in CH2Cl2 (2.7 mL, 0.1 M) were added Proton Sponge™ (87 mg, 0.41 mmol, 1.5 equiv) and trimethyloxonium tetrafluoroborate (44 mg, 0.30 mmol, 1.1 equiv). A white precipitate quickly formed. The resulting mixture was stirred at room temperature for 16 h, quenched with 1 N HCl (2 mL), diluted with H2O (20 mL), and extracted with CH2Cl2 (3×20 mL). The combined organic extracts were dried over Na2SO4, filtered, and concentrated to provide a white solid. Purification by automated silica gel column chromatography (4-30% acetone in hexanes) provided tert-butyl ((3S,7S,8R,9S)-7-benzyl-8-(3-methoxypropoxy)-9-methyl-2-oxo-1,5-dioxonan-3-yl)carbamate (118 mg, 72%) as a colorless oil: IR (ATR) 3347, 2978, 2928, 2875, 1750, 1710, 1496, 1354, 1367, 1385, 1327, 1163, 1088, 910, 855, 731 cm−1; 1H NMR (400 MHz, CDCl3) δ 7.28 (dd, J=8.6, 6.9 Hz, 2H), 7.24-7.14 (m, 3H), 5.13 (d, J=8.1 Hz, 1H), 4.94 (dq, J=9.3, 6.4 Hz, 1H), 4.60 (dd, J=14.9, 7.3 Hz, 1H), 3.88 (dd, J=11.5, 7.3 Hz, 1H), 3.76 (dt, J=12.7, 6.3 Hz, 1H), 3.63 (dt, J=8.7, 6.3 Hz, 1H), 3.53-3.42 (m, 3H), 3.41-3.33 (m, 1H), 3.30 (s, 4H), 3.28-3.22 (m, 1H), 3.18-3.05 (m, 2H), 2.29 (t, J=12.7

reactant | tert-butyl ((3S,7S,8R,9S)-7-benzyl-8-(3-hydroxypropoxy)-9-methyl-2-oxo-1,5-dioxonan-3-yl)carbamate | 0.270 mmol, 118 mg, 1.00 equiv | C(C1=CC=CC=C1)[C@H]1COC[C@@H](C(O[C@H]([C@@H]1OCCCO)C)=O)NC(OC(C)(C)C)=O | C23H35NO7
reactant | Proton Sponge | CN(C)C1=CC=CC2=C1C(=CC=C2)N(C)C | C14H18N2
reactant | trimethyloxonium tetrafluoroborate | 0.30 mmol, 44 mg, 1.1 equiv | F[B-](F)(F)F.C[O+](C)C
solvent | CH2Cl2 | 0.1 M, 2.7 mL | C(Cl)Cl | CH2Cl2
product | tert-butyl ((3S,7S,8R,9S)-7-benzyl-8-(3-methoxypropoxy)-9-methyl-2-oxo-1,5-dioxonan-3-yl)carbamate | 118 mg, 72% | C(C1=CC=CC=C1)[C@H]1COC[C@@H](C(O[C@H]([C@@H]1OCCCOC)C)=O)NC(OC(C)(C)C)=O | C24H37NO7
